US07375115B2
2-[1-(2-Hydroxyethyl)cyclohexyl]ethanol
To a solution of 1,1,-cyclohexanediacetic acid (6.0 g) in tetrahydrofuran (90 mL) was added lithium aluminum hydride (2.28 g) under ice cooling. The solution was stirred under reflux for 4 hours, and then, cooled on ice, to which diethyl ether (200 mL), water (2.3 mL) and a 15% aqueous sodium hydroxide solution (2.3 mL) were added. After stirring the solution at room temperature for 30 minutes, water (6.9 mL) was added and the solution was stirred at room temperature for additional 30 minutes. Anhydrous magnesium sulfate was added to the solution, and it was filtered under reduced pressure. The filtrate was concentrated under reduced pressure. The resulting residue was purified by chromatography (silica gel, ethyl acetate) to give the title compound (4.83 g).

reactant | cyclohexanediacetic acid | 6.0 g | C1(CCCCC1)(CC(=O)O)CC(=O)O | C10H16O4
reactant | lithium aluminum hydride | 2.28 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2.3 mL | [OH-].[Na+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
solvent | water | 6.9 mL | O | H2O
solvent | water | 2.3 mL | O | H2O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 2-[1-(2-Hydroxyethyl)cyclohexyl]ethanol | 4.83 g | OCCC1(CCCCC1)CCO | C10H20O2
